US07820823B2
4-[2-(4-{4-[(5S)-5-(Acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-2-fluoro-phenyl}-piperazin-1-yl)-2-oxo-ethyl]-piperazine-1-carboxylic Acid Tert-Butyl Ester
To a stirred suspension of 672 mg of N-[(5S)-3-(3-fluoro-4-piperazine-1-yl-phenyl)-2-oxo-oxazolidin-5-ylmethyl]-acetamide (2 mmol) and 0.42 ml of triethylamine (3 mmol) in 30 ml dichloromethane was added at rt. a solution of 484 mg bromoacetylbromide (2.4 mmol) in 2 ml of dichloromethane. The reaction was monitored by TLC. The reaction solution was washed with water and brine, the dichloromethane layer dried over Mg sulfate, filtered and the filtrate evaporated to dryness. The residue was digested in 20 ml ether, the solid filtered and dried. The colorless solid was dissolved in 10 ml DMF, 372 mg N-Boc piperazine 2 mmol) and 276 mg of potassium carbonate (2 mmol) were added. The reaction was stirred over night at 60° C. and monitored by TLC. The DMF was evaporated to dryness, the residue purified by chromatography, using a 19/1 dichloromethane/methanol mixture as eluent.

reactant | N-[(5S)-3-(3-fluoro-4-piperazine-1-yl-phenyl)-2-oxo-oxazolidin-5-ylmethyl]-acetamide | 2 mmol, 672 mg | FC=1C=C(C=CC1N1CCNCC1)N1C(O[C@H](C1)CNC(C)=O)=O | C16H21FN4O3
reactant | triethylamine | 3 mmol, 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | bromoacetylbromide | 2.4 mmol, 484 mg | BrCC(=O)Br | C2H2Br2O
reactant | N-Boc piperazine | 2 mmol, 372 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | potassium carbonate | 2 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 4-[2-(4-{4-[(5S)-5-(Acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-2-fluoro-phenyl}-piperazin-1-yl)-2-oxo-ethyl]-piperazine-1-carboxylic Acid Tert-Butyl Ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CC(=O)N1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C27H39FN6O6
